US08536214B2
N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)methanesulfonamide
To a solution of (1-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (0.096 mmol, 30 mg) and triethylamine (0.193 mmol, 0.027 mL, 19.50 mg) in DCM (0.9 mL) was added methanesulfonyl chloride (0.096 mmol, 7.46 μL, 11.04 mg) and the whole stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the residue purified by RP-HPLC to give a clear film (2.2 mg 5.7 μmol, 5.9%). MS (ESI): m/z [M+H]+ 390.0

reactant | (1-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 0.096 mmol, 30 mg | NC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)CO)C(F)(F)F | C15H16F3N3O
reactant | triethylamine | 0.193 mmol, 0.027 mL, 19.50 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.096 mmol, 7.46 μL, 11.04 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 0.9 mL | C(Cl)Cl | CH2Cl2
product | N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)methanesulfonamide | OCC=1C(=NN(C1)CC=1C=C2CCC(C2=CC1)NS(=O)(=O)C)C(F)(F)F | C16H18F3N3O3S
